US06395733B1
(3-Ethynyl-phenyl)-(6methyl-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride
This material was prepared from 4-chloro-6-methyl-pyrido[3,4-d]pyrimidine (1.0 eq.) and 3-ethynylaniline (1.1 eq.) as described for Example 74. After extraction chromatography of the residue on silica in 20% to 80% acetone/hexanes afforded 166 mg of the title product as its free-base which was converted to the title product (M.P. 250-252° C.; LC-MS: 261 (MH+); anal.RP-HPLC: 3.69 min.).

reactant | 4-chloro-6-methyl-pyrido[3,4-d]pyrimidine | 1.0 eq. | ClC=1C2=C(N=CN1)C=NC(=C2)C | C8H6ClN3
reactant | 3-ethynylaniline | 1.1 eq. | C(#C)C=1C=C(N)C=CC1 | C8H7N
product | (3-Ethynyl-phenyl)-(6methyl-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride | 166 mg | Cl.C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)C | InChI=1S/C16H12N4.ClH/c1-3-12-5-4-6-13(8-12)20-16-14-7-11(2)17-9-15(14)18-10-19-16;/h1,4-10H,2H3,(H,18,19,20);1H
